US06992087B2
(1R,2S)-1-[(5-bromo-3-cyclopropyl-6-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting (1R,2S)-1-[(3-cyclopropyl-6-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.86-1.08, 1.23-1.30, 1.70-1.79, 2.77-2.84, 3.03-3.09, 3.23-3.30, 4.77-4.81, 5.44, 5.56, 7.23-7.32; MS (ESI+) for C18H20BrN3O m/z 374 (M+H)+.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | (1R,2S)-1-[(3-cyclopropyl-6-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C1(CC1)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C18H21N3O
product | (1R,2S)-1-[(5-bromo-3-cyclopropyl-6-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)C1CC1 | C18H20BrN3O
